US05196433
Preparation of 1,1-dimethoxy-2-hydroxy-2-(3-pyridyl)-3-(2,4-dichlorophenyl)-propane (Example 4 in the table)
At -70° C., 88.9 g (0.337 mol) of 1,1-dimethoxy-3-(2,4-dichlorophenyl)propan-2-one in 100 ml of diethyl ether (Et2O) is dripped into a solution of 0.371 mol of 3-pyridyllithium in 1.1 liters of Et2O prepared from n-butyllithium and 3-bromopyridine. After half an hour at -70° C., the solution is slowly heated up to 0° C. Isopropanol and then water is added, and the reaction solution is extracted with 1N hydrochloric acid. The acidic aqueous phase is then neutralized with NaHCO3 and extracted with methylene chloride (CH2Cl2). After drying over Na2SO4, all the volatile constituents are removed in a rotary evaporator. A yellowish red oil is obtained. Yield: 56.1 g (48.7%).

reactant | 1,1-dimethoxy-3-(2,4-dichlorophenyl)propan-2-one | 0.337 mol, 88.9 g | COC(C(CC1=C(C=C(C=C1)Cl)Cl)=O)OC | C11H12Cl2O3
reactant | 3-pyridyllithium | 0.371 mol | N1=CC(=CC=C1)[Li]
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | Et2O | 1.1 liters | CCOCC | C4H10O
solvent | water | O | H2O
solvent | Isopropanol | C(C)(C)O | C3H8O
product | 1,1-dimethoxy-2-hydroxy-2-(3-pyridyl)-3-(2,4-dichlorophenyl)-propane | COC(C(CC1=C(C=C(C=C1)Cl)Cl)(C=1C=NC=CC1)O)OC | C16H17Cl2NO3
